* C:\Users\Parry\Documents\GitHub\BCIT-BAJA\testing\LTSPICE_SIMS\RC_TimeConstantForADC.asc
* Generated by LTspice 24.1.7 for Windows.
R1 Vout N001 330
C1 Vout 0 0.1µF V=6
V1 N001 0 PULSE(0 3.3 0 1n 1n 1 2)
.tran 0.5m
.backanno
.end
