* C:\Users\Parry\Documents\BCIT-BAJA\testing\LTSPICE_SIMS\strainAmplifier.asc
* Generated by LTspice 24.1.9 for Windows.
V3 Strain_D+ 0 SINE(2.5 0.015 1K)
V4 Strain_D- 0 2.5
R6 N003 N001 1K
V5 3.3V 0 3.3
V6 StrainV_PWR 0 4.996
X§U3 Strain_D+ Strain_D- StrainV_PWR 0 V_strainOut Vref N001 N003 INA317
R2 StrainV_PWR N002 200K
R3 N002 0 100K
X§U1 N002 Vref StrainV_PWR 0 Vref TLV9062
R1 V_strainOut 0 1Meg
.lib library\INA317.LIB
.lib library\tlv9062.LIB
.lib library\INA333.LIB
.tran 0 2ms 0 1us
.lib library\DDZ9684.LIB
.lib C:\Users\Parry\Documents\BCIT-BAJA\testing\LTSPICE_SIMS\library\INA317.LIB
.lib C:\Users\Parry\Documents\BCIT-BAJA\testing\LTSPICE_SIMS\library\tlv9062.LIB
.backanno
.end
