* C:\Users\Parry\Documents\GitHub\BCIT-BAJA\testing\LTSPICE_SIMS\strainGaugeTransientAnalysis.asc
* Generated by LTspice 24.1.7 for Windows.
V1 N001 0 5
M1 N001 N002 StrainV_PWR StrainV_PWR Si7137DP
R1 N001 N002 10k
V2 N002 0 PULSE(0 5 2 0.1ns 0.1ns 1 3 3)
R2 StrainV_PWR N004 350
R3 StrainV_PWR N005 350
R4 N004 0 350
R5 N005 0 350
X§U1 Strain_D+ Strain_D- StrainV_PWR 0 N003 Vref N006 N007 INA317
R6 N006 N007 500
R7 StrainV_PWR Vref 1K
R8 Vref 0 1K
V3 Strain_D+ 0 SINE(2.5 0.001 1K)
V4 Strain_D- 0 2.5
R9 ADC_IN N003 1K
C1 ADC_IN 0 10nF
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Parry\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 100ms
.lib library\INA317.LIB
.lib C:\Users\Parry\Documents\GitHub\BCIT-BAJA\testing\LTSPICE_SIMS\library\INA317.LIB
.backanno
.end
