* DIODES INCORPORATED AND ITS AFFILIATED COMPANIES AND SUBSIDIARIES (COLLECTIVELY, "DIODES") 
* PROVIDE THESE SPICE MODELS AND DATA (COLLECTIVELY, THE "SM DATA") "AS IS" AND WITHOUT ANY 
* REPRESENTATIONS OR WARRANTIES, EXPRESS OR IMPLIED, INCLUDING ANY WARRANTY OF MERCHANTABILITY 
* OR FITNESS FOR A PARTICULAR PURPOSE, ANY WARRANTY ARISING FROM COURSE OF DEALING OR COURSE OF 
* PERFORMANCE, OR ANY WARRANTY THAT ACCESS TO OR OPERATION OF THE SM DATA WILL BE UNINTERRUPTED, 
* OR THAT THE SM DATA OR ANY SIMULATION USING THE SM DATA WILL BE ERROR FREE. TO THE MAXIMUM 
* EXTENT PERMITTED BY LAW, IN NO EVENT WILL DIODES BE LIABLE FOR ANY DIRECT OR INDIRECT, 
* SPECIAL, INCIDENTAL, PUNITIVE OR CONSEQUENTIAL DAMAGES ARISING OUT OF OR IN CONNECTION WITH 
* THE PRODUCTION OR USE OF SM DATA, HOWEVER CAUSED AND UNDER WHATEVER CAUSE OF ACTION OR THEORY 
* OF LIABILITY BROUGHT (INCLUDING, WITHOUT LIMITATION, UNDER ANY CONTRACT, NEGLIGENCE OR OTHER 
* TORT THEORY OF LIABILITY), EVEN IF DIODES HAS BEEN ADVISED OF THE POSSIBILITY OF SUCH DAMAGES, 
* AND DIODES' TOTAL LIABILITY (WHETHER IN CONTRACT, TORT OR OTHERWISE) WITH REGARD TO THE SM 
* DATA WILL NOT, IN THE AGGREGATE, EXCEED ANY SUMS PAID BY YOU TO DIODES FOR THE SM DATA.



*
*DIODES_INC_SPICE_MODEL
*ORIGIN=DZSL_DPG_SU
*SIMULATOR=PSPICE
*DATE=17/12/2014
*VERSION=1



.SUBCKT ZXMP10A13F 10 20 30
M1 1 2 3 3  Pmod1
RD 10 1 Rmod1 300E-3
RS 23 3 Rmod1 600E-3
RG 20 22 10
RIN 20 23 2E11
RDS 10 23 2E9
CGS 2 3 13E-12 
EGD 12 0 1 2 1
REGD 12 0 1
VFB 14 0 0 
FFB 1 2 VFB 1 
CGD 13 14 8E-12 
R1 13 0 1 
D1 12 13  DLIM 
DDG 15 14  DCGD 
R2 12 15 1 
D2 15 0  DLIM 
DSD 10 23 DSUB
EL 2 22 1 3 .009
RL 30 23 3
LS  30 23 2E-9
.MODEL Pmod1 PMOS (LEVEL=3 VTO=-4 TOX=10.4E-8 NSUB=3.5E+14 KP=38 NFS=13.7E+11 IS=1E-15 N=10)
.MODEL DCGD D (CJO = 8E-12  VJ = 0.45  M = 0.33 T_ABS=25)
.MODEL DSUB D (IS=.29E-12 N=1.01 RS=0.05 BV=105 CJO=20E-12 VJ=0.45 M=0.33 TT=14E-9 TRS1=2m IKF=.5)
.MODEL DLIM D (IS=100U N=1 T_ABS=25)
.MODEL Rmod1 RES (TC1=1.2e-3 TC2=1E-6)
.ENDS
.SIMULATOR DEFAULT


*                     (c)  2014 Diodes Inc
*   The copyright in these models  and  the designs embodied belong
*   to Diodes Incorporated (" Zetex ").  They  are  supplied
*   free of charge by Zetex for the purpose of research and design
*   and may be used or copied intact  (including this notice)  for
*   that purpose only.  All other rights are reserved.  The models
*   are believed accurate but no condition  or warranty  as to their
*   merchantability or fitness for purpose is given and no liability
*   in respect of any use is accepted by Diodes Incorporated, its distributors
*   or agents.
*
*   Diodes Zetex Semiconductors Ltd, Zetex Technology Park, Chadderton,
*   Oldham, United Kingdom, OL9 9LL
*

