* DIODES INCORPORATED AND ITS AFFILIATED COMPANIES AND SUBSIDIARIES (COLLECTIVELY, "DIODES") 
* PROVIDE THESE SPICE MODELS AND DATA (COLLECTIVELY, THE "SM DATA") "AS IS" AND WITHOUT ANY 
* REPRESENTATIONS OR WARRANTIES, EXPRESS OR IMPLIED, INCLUDING ANY WARRANTY OF MERCHANTABILITY 
* OR FITNESS FOR A PARTICULAR PURPOSE, ANY WARRANTY ARISING FROM COURSE OF DEALING OR COURSE OF 
* PERFORMANCE, OR ANY WARRANTY THAT ACCESS TO OR OPERATION OF THE SM DATA WILL BE UNINTERRUPTED, 
* OR THAT THE SM DATA OR ANY SIMULATION USING THE SM DATA WILL BE ERROR FREE. TO THE MAXIMUM 
* EXTENT PERMITTED BY LAW, IN NO EVENT WILL DIODES BE LIABLE FOR ANY DIRECT OR INDIRECT, 
* SPECIAL, INCIDENTAL, PUNITIVE OR CONSEQUENTIAL DAMAGES ARISING OUT OF OR IN CONNECTION WITH 
* THE PRODUCTION OR USE OF SM DATA, HOWEVER CAUSED AND UNDER WHATEVER CAUSE OF ACTION OR THEORY 
* OF LIABILITY BROUGHT (INCLUDING, WITHOUT LIMITATION, UNDER ANY CONTRACT, NEGLIGENCE OR OTHER 
* TORT THEORY OF LIABILITY), EVEN IF DIODES HAS BEEN ADVISED OF THE POSSIBILITY OF SUCH DAMAGES, 
* AND DIODES' TOTAL LIABILITY (WHETHER IN CONTRACT, TORT OR OTHERWISE) WITH REGARD TO THE SM 
* DATA WILL NOT, IN THE AGGREGATE, EXCEED ANY SUMS PAID BY YOU TO DIODES FOR THE SM DATA.



*ZETEX ZXMP6A13F Spice Model v2.0 Last Revised 15/02/05
    *
    .SUBCKT zxmp6a13F 30 40 50
    *                D G S
    M1 6 2 5 5 Pmod L=1.2E-6 W=0.39
    M2 5 2 5 6 Nmod L=1.4E-6 W=0.195
    RG 4 2 3
    RIN 2 5 1E9
    RD 3 6 Rdmod 0.25
    RL 3 5 3E9
    C1 2 5 25E-12
    C2 3 4 15E-12
    D1 3 5  Dbodymod
    LD 3 30 0.5E-9
    LG 4 40 1.0E-9
    LS 5 50 1.0E-9
    .MODEL Pmod PMOS (LEVEL=3 TOX=5.5E-8 NSUB=1e16
    +VTO=-1.5 KP=6e-6 RS=0.005 NFS=12e11 KAPPA=0.01 UO=650 IS=1E-15 N=10)
    .MODEL Nmod NMOS (LEVEL=3 TOX=5.5E-8 NSUB=1E16
    +TPG=-1 IS=1E-15 N=10)
    .MODEL Dbodymod D (IS=1e-11 RS=0.05 IKF=0.001966 XTI=-1 TRS1=1.2e-3
    +CJO=3.514e-11  BV=66)
    .MODEL Rdmod RES (TC1=5e-3 TC2=1e-5)
    .ENDS zxmp6a13F
    *
    *$
    *